US07291631B2
Using General Procedure B: Reaction of N-{3-hydroxymethyl-4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzyl}-acetamide in CH2Cl2 with 3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridine-2-carbaldehyde and NaBH(OAc)3 gave N-(4-{[{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-3-hydroxymethyl-benzyl)-acetamide as a white foam. 1H NMR (CDCl3) δ 1.45 (m, 1H), 1.55 (s, 3H), 1.63 (s, 3H), 1.72 (m, 1H), 1.83 (m, 1H), 2.00 (s, 3H), 2.10 (m, 1H), 2.57 (m, 2H), 2.79 (m, 1H), 3.48 (s, 2H), 3.72-3.90 (m, 4H), 4.35 (d, 2H, J=6.0 Hz), 4.60 (d, 1H, J=12.0 Hz), 4.72 (d, 1H, J=12.0 Hz), 5.67 (br s, 1H), 6.79 (t, 2H, J=6.0 Hz), 6.91 (d, 1H, J=6.0), 7.03 (br s, 3H), 7.21 (m, 2H), 7.27 (d, 1H, J=9.0 Hz), 7.79 (d, 1H, J=9.0 Hz), 8.41 (d, 1H, J=3.0 Hz), 8.53 (d, 1H, J=3.0 Hz). 13C NMR (CDCl3) δ 22.4, 23.6, 27.2, 29.4, 29.6, 32.6, 42.3, 43.8, 54.8, 55.2, 59.0, 63.7, 115.2, 115.5, 121.6, 121.8, 127.1, 127.4, 127.5, 130.7, 132.4, 133.9, 134.6, 136.8, 138.0, 142.9, 145.7, 146.8, 146.9, 157.6, 158.1, 159.5, 162.7, 170.3. HPLC: 95%. ES-MS m/z 567 [M+H]+. Anal. Calcd. for C35H39N4O2F.0.3 CH2Cl2: C, 71.60; H, 6.74; N, 9.46. Found: C, 71.48; H, 6.81; N, 9.58.

reactant | N-{3-hydroxymethyl-4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-benzyl}-acetamide | OCC=1C=C(CNC(C)=O)C=CC1CNC1CCCC=2C=CC=NC12 | C20H25N3O2
reactant | 3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridine-2-carbaldehyde | FC1=CC=C(C=C1)C(C)(C)C=1C(=NC=CC1)C=O | C15H14FNO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(4-{[{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-3-hydroxymethyl-benzyl)-acetamide | FC1=CC=C(C=C1)C(C)(C)C=1C(=NC=CC1)CN(C1CCCC=2C=CC=NC12)CC1=C(C=C(CNC(C)=O)C=C1)CO | C35H39FN4O2
